US07332516B2
A solution of 1-bromo-2-fluoro-4-methyl-benzene (5.0 g, 26.45 mmol), N-bromosuccinimide (4.94 g, 27.75 mmol) and benzoyl peroxide (100 mg) in carbon tetrachloride (75 mL) was heated under reflux for 3 hrs, allowed to cool, filtered and the residue flashed through a plug of silica gel, eluting with hexanes. The solvent was evaporated to dryness to afford a colorless oil. The crude product (1.73 g, 6.46 mmol) and sodium cyanide (317 mg, 6.46 mmol) was heated to reflux in a mixture of ethanol (17 mL) and water (3 mL) for a period of 4 hrs. After cooling, the solution was evaporated to dryness and the residue purified by column chromatography (0 to 10% EtOAc in hexanes) to afford (4-bromo-3-fluoro-phenyl)-acetonitrile as a pale orange solid. 1H NMR (500 MHz, CDCl3) δ 7.56 (1H, m), 7.12 (1H, d, J=8.9 Hz), 7.02 (1H, d, J=8.9 Hz), 3.73 (3H, s).

reactant | 1-bromo-2-fluoro-4-methyl-benzene | 26.45 mmol, 5.0 g | BrC1=C(C=C(C=C1)C)F | C7H6BrF
reactant | N-bromosuccinimide | 27.75 mmol, 4.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium cyanide | 6.46 mmol, 317 mg | [C-]#N.[Na+]
solvent | carbon tetrachloride | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 17 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
product | (4-bromo-3-fluoro-phenyl)-acetonitrile | BrC1=C(C=C(C=C1)CC#N)F | C8H5BrFN
